US06610685B2
c) Carbonic acid 3-(5-chloro-pent-1-ynyl)-4-methoxycarbonylamino-phenyl ester methyl ester
Carbonic acid 3-iodo-4-methoxycarbonylamino-phenyl ester methyl ester (28.0 g, 79.75 mmol) was dissolved in acetonitrile (350 mL). Triethylamine (22.2mL, 160 mmol), Copper (I) iodide (300 mg, 1.58 mmol), bis(triphenylphosphine)palladium (II) chloride (1.12 g, 1.6 mmol) and 5-chloro-1-pentyne (10.0 mL, 95.54 mmol) were added and the mixture heated 3 h at 70° C. The reaction was cooled and partitioned between ethyl acetate (100 mL) and IM pH4 phosphate buffer (100 mL). The phases were separated, the aqueous phase extracted with ethyl acetate and the combined organic phases washed with 10% sodium thiosulfate solution, brine, dried over sodium sulfate and evaporated. The orange/brown residue (23.5 g, 90%) was used without further purification. (A small sample was purified by column chromatography on silica gel (5:1 hexane/ethyl acetate) for analytical purposes). ISP-MS: m/e=326.3 ([M−H]+)

reactant | Carbonic acid 3-iodo-4-methoxycarbonylamino-phenyl ester methyl ester | 79.75 mmol, 28.0 g | COC(OC1=CC(=C(C=C1)NC(=O)OC)I)=O | C10H10INO5
reactant | Triethylamine | 160 mmol, 22.2mL | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-1-pentyne | 95.54 mmol, 10.0 mL | ClCCCC#C | C5H7Cl
solvent | acetonitrile | 350 mL | C(C)#N | C2H3N
catalyst | Copper (I) iodide | 1.58 mmol, 300 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium (II) chloride | 1.6 mmol, 1.12 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | Carbonic acid 3-(5-chloro-pent-1-ynyl)-4-methoxycarbonylamino-phenyl ester methyl ester | COC(OC1=CC(=C(C=C1)NC(=O)OC)C#CCCCCl)=O | C15H16ClNO5
